US07858679B2
Synthesis of 3,4-bis(t-butyldimethylsilyloxy)-N-t-butyloxycarbonyl-L-phenylalanine
1.60 g (3.77 mmol) of 3,4-bis(t-butyldimethylsilyloxy)-L-phenylalanine was added to 10 ml of water containing 0.34 g (4.05 mmol) of NaHCO3. 0.96 g (4.30 mmol) of di-t-butyl dicarbonate in 10 ml of tetrahydrofuran was added and the reaction mixture was stirred for 24 hours at room temperature. After evaporation of tetrahydrofuran, 10 ml of water was added to the residue. The solution was acidified with dilute HCl to pH of 5 and extracted three times with ethyl acetate. After drying over anhydrous MgSO4, the solvent was removed in vacuo. The crude product was purified by column chromatography (silica gel; eluent; 10% methanol in DCM). A white solid was obtained with a yield of 70% after evaporating the eluting solvent. 1H NMR (500 MHz, methanol-d); ÿ 6.68-6.81(3 H, C6H3(O—Si—)2—); 4.28 (m, 1 H, —CH—); 2.78-3.08 (m, 2 H, —CH3—); 1.4 (s, 9 H, —O—C(CH3)3); 1.0 (d, 18 H, —Si—C(CH3)3); 0.2 (d, 12 H, Si—(CH3)2).

reactant | 3,4-bis(t-butyldimethylsilyloxy)-L-phenylalanine | 3.77 mmol, 1.60 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C[C@H](N)C(=O)O)C=CC1O[Si](C)(C)C(C)(C)C | C21H39NO4Si2
reactant | water | 4.05 mmol, 10 ml, 0.34 g | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | di-t-butyl dicarbonate | 4.30 mmol, 0.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3,4-bis(t-butyldimethylsilyloxy)-N-t-butyloxycarbonyl-L-phenylalanine | yield of 70% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)O)C=CC1O[Si](C)(C)C(C)(C)C | C26H47NO6Si2
